Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
blurred vision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a ___ year old left handed woman G2P1 12 weeks
pregnant who neurology has been consulted because of CRAO. 

Mrs. ___ reports that on ___ that she suddenly
developed painless blurriness of her vision that was
characterized as a grey somewhat translucent cloudiness of 
vision
in the right inferior temporal quadrant.  She denies
hyperflexion/extension of her neck or trauma to the head or 
neck.
She denied experiencing racing of her heart or feeling of
abnormal rhythm of her heart. 

Mrs. ___ did not go to the hospital, but made an appointment
to see an eye doctor on ___.  Dr. ___ her and was
concerned for inner retinal thickening in the superior nasal
quadrant of the right macula with concern for CRAO.  Mrs. ___
was to follow up with Dr. ___ ___, but he recommended 
that
she present to ___ ED for stroke admission. 

Mrs. ___ has had the above change in vision since onset and
without evolution.  She has no further complaints and denies
headache, vertigo, weakness, or sensory changes.

ROS:
10 point ROS is otherwise negative except for what is mentioned
in history of present illness. 

 
Past Medical History:
None.

 
Social History:
___
Family History:
No family history of hematological conditions or strokes in
people less than ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Temperature: 98.2 
Pulse: 69 
Blood pressure: 108/65 
Respiratory rate: 17 
Oxygen saturation: 100% RA 

Mental status:  
She is awake, alert, and cooperative with the exam.  She is 
attentive, able to say months of the year backwards.  Fund of 
knowledge is intact.  She is oriented to place and date. 
Language is fluent.  Memory for recent and remote history is 
intact.  

Cranial nerves:  
Fundoscopic exam reveals sharp disc margins bilaterally, I did 
not see any arterial narrowing or thickening.  No exudate.  No 
change in color of the background retina.  ___ vision 
bilaterally.  No color desaturation.  No pain with extraocular 
movement.  No visual field cut.  Pupils are equal and reactive.  
Extraocular movements are full.  Facial sensation and movement
are intact and symmetric.  Hearing is intact to finger rub 
bilaterally.  Palate elevates symmetrically. SCM and trapezius 
are full strength bilaterally.  Tongue is midline.  

Motor:  
She has no pronator drift.  Strength is full.  Tone is normal.  

Sensation:  
Pinprick is intact in the hands and feet.  Position sense is 
intact in the toes bilaterally.  Romberg is negative.  

Coordination:  
Finger-nose-finger and finger-to-nose are intact without 
dysmetria bilaterally.  

Reflexes:  
2 and symmetric.  Toes are downgoing bilaterally.  

Gait:  
Narrow based with normal step height, stride length, arm swing,
and turns.  She is able to walk in tandem.

=================================================

DISCHARGE PHYSICAL EXAM:

24 HR Data (last updated ___ @ 1245)
    Temp: 97.9 (Tm 99.1), BP: 101/68 (91-123/53-68), HR: 68 
(62-83), RR: 18 (___), O2 sat: 99% (98-100), O2 delivery: Ra  

Gen: Awake, alert, interactive, in no distress
Resp: Breathing comfortably in room air
___: Rhythm and rate normal, perfusion normal, no edema
Abd: ~12 weeks pregnant

Mental status:  
She is awake, alert, and cooperative with the exam.  She is
attentive.  Fund of knowledge is intact.  She is oriented to
place and date.  Language is fluent.  Memory for recent and
remote history is intact.  

Cranial nerves:  
Fundoscopic exam reveals sharp disc margins bilaterally, rest of
retina with macula not well visualized as pt's eyes are not
dilated.  No change in color of the background retina.  No color
desaturation.  No pain with extraocular movement.  No visual
field cut, has difficulty with finger counting in right temporal 
lower quadrant with right eye.  Pupils are equal and reactive.  
Extraocular movements
are full.  Facial sensation and movement are intact and
symmetric.  Hearing is intact to finger rub bilaterally.  Palate
elevates symmetrically. SCM and trapezius are full strength
bilaterally.  Tongue is midline.  

Motor:  She has no pronator drift.  Strength is full.  Tone is 
normal.  

Sensation:  Intact to light touch in all 4 extremities.  

Coordination:  Finger-nose-finger and finger-to-nose are intact 
without
dysmetria bilaterally.  

Reflexes:  2 and symmetric.  Toes are downgoing bilaterally.   

Gait:  narrow based with normal step height, stride length, arm 
swing, and turns

=================================================

 
Pertinent Results:
___ 09:47AM BLOOD WBC-5.4 RBC-3.67* Hgb-11.4 Hct-33.0* 
MCV-90 MCH-31.1 MCHC-34.5 RDW-12.9 RDWSD-42.3 Plt ___
___ 05:55AM BLOOD Neuts-60.4 ___ Monos-4.9* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-3.44 AbsLymp-1.89 
AbsMono-0.28 AbsEos-0.05 AbsBaso-0.02
___ 09:47AM BLOOD Plt ___
___ 09:47AM BLOOD ___ PTT-32.8 ___
___ 09:47AM BLOOD Lupus-PND dRVVT-S-PND
___ 04:14PM BLOOD AT-107 ProtCFn-102 ProtSFn-68
___ 09:47AM BLOOD Glucose-86 UreaN-11 Creat-0.5 Na-138 
K-3.8 Cl-102 HCO3-23 AnGap-13
___ 05:55AM BLOOD GGT-9
___ 09:47AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.6
___ 05:55AM BLOOD %HbA1c-4.5 eAG-82
___ 05:55AM BLOOD Triglyc-55 HDL-60 CHOL/HD-2.4 LDLcalc-75 
Homocys-PND
___ 05:50PM BLOOD Homocys-2.8
___ 05:55AM BLOOD TSH-4.0
___ 05:55AM BLOOD ___ CRP-4.1
___ 05:55AM BLOOD b2micro-1.0
___ 04:14PM BLOOD C3-137 C4-20
___ 04:14PM BLOOD FACTOR V ___
___ 04:14PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
 
Brief Hospital Course:
BRIEF SUMMARY OF ADMISSION:

Mrs. ___ is a ___ year old right handed woman 12 weeks 
pregnant (G2P1) without any significant past medical history who 
presented with 5 days of monocular blurry vision in right lower 
quadrant, and who was found to have an area of inner retinal 
thickening in the superior nasal quadrant of the right macula on 
optical coherence tomography, concerning for Branch Retinal 
Artery Occlusion (BRAO). Her symptoms have persisted, though the 
"cloudy spot" in her visual field remains unchanged, she has had 
an otherwise normal neurologic examination currently. Her MRI 
and MRA did not show any clots and no infarct which is 
reassuring. 

Pt's presentation is concerning for BRAO due to cilioretinal 
artery obstruction during pregnancy. Patient likely 
hypercoagulable due to pregnancy but no history suggestive of 
familial thrombophilia, recurrent miscarriages, or 
DVT/PE/strokes in young. We obtained hypercoagulable work up. 
Based on review of literature, discussion with ___ hematology, 
___ Obstetrics and patient's primary Obstetrician, we 
initiated lovenox treatment at 1 mg/kg BID (therapeutic dosing). 
Duration of therapeutic anticoagulation to be determined by 
outpatient Obstetrician. Tentatively, we will plan for 
therapeutic lovenox for the second trimester (over next ___ 
weeks), and transition to prophylactic lovenox thereafter during 
the pregnancy with close obstetric/hematology follow up.

======================================
Problem Wise Hospital Course:

##Right eye Branch Retinal Artery obstruction, 
hypercoagulability: 
Mrs. ___ reports that on ___ that she suddenly 
developed painless blurriness of her vision that was 
characterized as a grey somewhat translucent cloudiness of 
vision in the right inferior temporal quadrant. Mrs. ___ did 
not go to the hospital, but made an appointment to see an eye 
doctor on ___. Dr. ___ her and was concerned for inner 
retinal thickening in the superior nasal quadrant of the right 
macula with concern for BRAO. Mrs. ___ was to follow up with 
Dr. ___ ___ (Neuro-ophthalmology), but he recommended 
that she present to ___ ED for stroke admission. Mrs. ___ 
has had the above change in vision since onset and without 
evolution. She has no further complaints and denies headache, 
vertigo, weakness, or sensory changes.

After admission, her symptoms persisted, though the "cloudy 
spot" in her visual field remains unchanged, she has had an 
otherwise normal neurologic examination throughout the 
hospitalization and at discharge. Her MRI brain showed no acute 
intracranial abnormality. Normal neck MRA, brain MRA. No 
dissection. Pt's presentation was felt to be concerning for BRAO 
due to cilioretinal artery obstruction during pregnancy. Lovenox 
was initiated, patient's symptoms remained stable during this 
hospitalization and she was discharged home on ___.

##Hypercoagulability work up: 
For etiology of BRAO, patient was likely hypercoagulable due to 
pregnancy but no history suggestive of familial thrombophilia, 
recurrent miscarriages, or DVT/PE/strokes in young. We obtained 
hypercoagulable work up:

___ Microglobulin: 1.0 (normal)
Homocysteine 4.2 (normal, range 0 - 15)
C3 : 137 ( normal, 90 - 180 mg/dL)
C4 : 20 ( normal, 10 - 40 )

Cardiolipin Antibodies (IgG, IgM): Pending
Factor V Leiden: pending
ACE: pending
___: pending

Other labs were also all reassuring(HbA1c 4.5, Cholesterol 146, 
Triglyceride 55, HDL 60, LDL 75; TSH 4.0; CRP 4.1). An echo was 
obtained which showed no definite structural cardiac source of 
embolism. Preserved biventricular systolic function. Ejection 
fraction was 57%. Bubble study could not be obtained as patient 
was pregnant, to rule out PFO. 
A Ziopatch was placed prior to discharge to monitor heart 
rhythm, results will be sent to Dr. ___. 

##Anticoagulation:
Based on review of literature, discussion with ___ hematology, 
___ Obstetrics and patient's primary Obstetrician, we 
initiated lovenox treatment at 1 mg/kg BID (therapeutic dosing). 
Duration of therapeutic anticoagulation to be determined by 
outpatient Obstetrician. Tentatively, we will plan for 
therapeutic lovenox for the second trimester (over next ___ 
weeks), and transition to prophylactic lovenox thereafter during 
the pregnancy with close obstetric/hematology follow up.

##Pregnancy:
Patient denied any abdominal pain or bleeding. Obstetrics team 
was consulted. They advised the patient that Lovenox therapy is 
safe for pregnant women. They recommended that after the course 
of therapeutic dosage is completed, patient should be continued 
on prophylactic Lovenox in pregnancy and the immediate 
postpartum period. Also recommended transitioning to heparin at 
36 weeks to better titrate anticoagulation at time of delivery. 
Additionally, an ___ consult is recommended. Order placed
for outpatient ___ consult and called office to coordinate care.

A fetal ultrasound was obtained, results of this are pending at 
the time of discharge. 

=========================================
Transitional issues:

[ ] We recommend administering lovenox at the dose prescribed (1 
mg/kg twice a day) till your Obstetrician advises otherwise. 

[ ] Some hypercoagulable labs are pending, results be will sent 
to Dr. ___. We recommend follow up with Dr. ___ 
(___) in 2 months after discharge, please call 
___ to make the appointment. 

[ ] Repeat heart echo with bubble study after pregnancy to 
definitely rule out PFO. 

[ ] Ziopatch placed at time of discharge to monitor heart 
rhythm, results will be sent to Dr. ___ (___)

[ ] Maternal-fetal medicine appointment is needed, the 
coordinator will reach out to you. If you do not hear about this 
appointment by next week, please call ___. 

=========================================

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC BID Branch retinal artery 
occlusion 
RX *enoxaparin 60 mg/0.6 mL 60 mg SC twice a day Disp #*60 
Syringe Refills:*0 
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Branch Retinal Artery Occlusion
Cilioretinal artery occlusion in the right eye

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted due to blurry vision from right eye, after 
your Eye doctor saw you and was concerned about blocked blood 
vessel supplying a part of the back of your eye, the retina. 

Retina is the transparent, light-sensitive structure at the back 
of the eye. Retinal artery occlusion is usually associated with 
sudden painless loss of vision in one eye. A blockage in a 
smaller artery is called branch retinal artery occlusion (BRAO); 
this may cause a loss of a section of your visual field, such as 
your vision to one side. If the affected area is not in the 
___ the eye or is relatively small, a BRAO may go 
unnoticed with no symptoms. The artery can become completely 
blocked by an embolism or thrombosis (formation of a blood clot 
in the artery). An embolism is a collection of solid material 
that floats in the bloodstream until it gets stuck in and blocks 
a blood vessel.

On arrival to ___, your neurological exam was reassuring. The 
"cloudy spot" in your vision persisted, and did not get worse. 
We obtained imagining of your brain and blood vessels supplying 
brain, these were reassuring.

We sent blood work to test if you have a condition predisposing 
you to form blood clots, some of these tests are pending and the 
ones that came back are reassuring.

After discussing with Hematology doctors, ___ Obstetrics 
doctors and your ___, you were started on a blood 
thinner, lovenox. Continue to take lovenox as prescribed till 
recommended differently by your Obstetrician.

Please take your other medications as prescribed.  

[ ] We recommend administering lovenox at the dose prescribed (1 
mg/kg twice a day) till your Obstetrician advises otherwise. 

[ ] Some hypercoagulable labs are pending, results be will sent 
to Dr. ___. We recommend follow up with Dr. ___ 
(___) in 2 months after discharge, please call 
___ to make the appointment. 

[ ] Repeat heart echo with bubble study after pregnancy to 
definitely rule out PFO. 

[ ] Ziopatch placed at time of discharge to monitor heart 
rhythm, results will be sent to Dr. ___ (___)

[ ] Maternal-fetal medicine appointment is needed, the 
coordinator will reach out to you. If you do not hear about this 
appointment by next week, please call ___. 

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team 

 
Followup Instructions:
___